US05387610
In a 3-neck round bottom flask were placed absolute ethanol (30 ml) and sodium (0.23 g; 10 mmol). Nitrogen was bubbled into the flask and then 10 (0.53 g; 5 mmol) in ethanol (5 ml) was added. The solvent was immediately removed in vacuo. The solution of N-t-butylcarbonyl naphthylalanine tosylate (2.46 g; 5.5 mmol) in DMSO (10 ml) was added to the flask. The reaction was stirred at room temperature for 6 h under a nitrogen blanket. NaHCO3 5% (150 ml) was added and the excess of Boc--Nal--CH2OTs was extracted with AcOEt. The aqueous layer was acidified to pH 2 with 2N HCl, then extracted with AcOEt 94×50 ml). The organic layer was washed with H2O and saturated NaCl, dried over Na2SO4, filtered and stripped to leave a crude solid which was crystallized from AcOEt/hexane (1.4 g; 72% yield).

reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium | 10 mmol, 0.23 g | [Na] | Na
reactant | N-t-butylcarbonyl naphthylalanine tosylate | 5.5 mmol, 2.46 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C)(C)(C)C(=O)N([C@@H](C)C(=O)O)C1=CC=CC2=CC=CC=C12
reactant | NaHCO3 | 150 ml | C(=O)(O)[O-].[Na+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | AcOEt hexane | 1.4 g, 72% yield | CCOC(=O)C.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
